US05863947
2-Amino-2-(4-carboxy-2-phenylphenyl)acetic acid
A stirred mixture of 4-cyano-2-phenylbenzaldehyde (0.15 g, 0.7 mmol), ammonium carbonate (0.27 g, 2.8 mmol) and potassium cyanide (91 mg, 1.4 mmol) in ethanol-water (1:1, 4 ml) was heated to 85° C. for 4 hours in a sealed vessel. After cooling, the mixture was diluted with water (2 ml) and cautiously acidified to pH1 precipitating a sticky solid. The crude solid was dissolved in 2M sodium hydroxide and heated to 120° C. for 16 hours in a sealed vessel. After cooling, the reaction solution was chromatographed directly on ion exchange resin, as described in Example 3 (iii) to give the title product as a white solid, m.p. 238°-240° C.

reactant | 4-cyano-2-phenylbenzaldehyde | 0.7 mmol, 0.15 g | C(#N)C1=CC(=C(C=O)C=C1)C1=CC=CC=C1 | C14H9NO
reactant | ammonium carbonate | 2.8 mmol, 0.27 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 1.4 mmol, 91 mg | [C-]#N.[K+]
reactant | ethanol water | 4 ml | C(C)O.O
solvent | water | 2 ml | O | H2O
product | 2-Amino-2-(4-carboxy-2-phenylphenyl)acetic acid | NC(C(=O)O)C1=C(C=C(C=C1)C(=O)O)C1=CC=CC=C1 | C15H13NO4
